US04521422
Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone
A mixture of 0.02 mole of 3-ethoxy-1-(3-pyridinyl)-2-propen-1-one, 0.02 mole of (3-amino-1H-pyrazol-4-yl)phenyl-methanone and 100 ml of xylene was refluxed for 12 hours. The solvent was removed and the residue dissolved in dichloromethane. This solution was dried over sodium sulfate and the product isolated as described in Example 1, as crystals, mp 202°-203° C.

reactant | 3-ethoxy-1-(3-pyridinyl)-2-propen-1-one | 0.02 mole | C(C)OC=CC(=O)C=1C=NC=CC1 | C10H11NO2
reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 0.02 mole | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Phenyl[7-(3-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C18H12N4O
